US05753665
A solution of 2,4-difluorophenol (1.30 g) in dry 1,2-dimethoxyethane was added slowly to a stirred suspension of sodium hydride (0.48 g) in dry 1,2-dimethoxyethane (35 ml). The mixture was stirred for 30 minutes, then a solution of 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine (2.27 g, prepared in a similar manner to that described in Example 6) in dry 1,2-dimethoxyethane (85 ml) was added dropwise. The reaction mixture was stirred overnight at room temperature. The sodium bromide was removed from the mixture by filtration. The solvent was evaporated from the mixture and the residue was dissolved in dichloromethane and washed with 200 ml of a 5% aqueous solution of sodium hydroxide followed by water. Evaporation of the solvent afforded a crude product which was purified by column chromatography on silica gel using as eluent a mixture of dichloromethane and ethanol (in the ratio 97:3 respectively), followed by recrystallisation from a mixture of ethyl acetate and hexane, to give 7-[1-(2,4-difluorophenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine. Yield 1.8 g, (m.p. 96°-97° C.).

reactant | 2,4-difluorophenol | 1.30 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine | BrC(C)C1=CC=NC=2N1N=CN2 | C7H7BrN4
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 85 ml | COCCOC | C4H10O2
product | 7-[1-(2,4-difluorophenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine | FC1=C(OC(C)C2=CC=NC=3N2N=CN3)C=CC(=C1)F | C13H10F2N4O
